US07160888B2
Synthesis of 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pentyl}-4-methyl-1H-[1,8]naphthyridin-2-one
7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pent-1-enyl}-4-methyl-1H-[1,8]naphthyridin-2-one (880 mg, 1.92 mmol) was dissolved in THF (50 mL) and added to a Parr bottle containing a suspension of Raney-Nickel (1.5 mL of a settled suspension in water) in EtOH (50 mL). The mixture was hydrogenated at 45 psi for 5.5 h. The reaction was not complete so additional Raney-Nickel (1 mL of a suspension in water) was added and the mixture was hydrogenated at 45 psi for 2.5 h. The reaction mixture was filtered through a bed of Celite and washed with EtOH. The filtrate was concentrated to give a white solid. Purification by column chromatography (10% MeOH/EtOAc) afforded the title compound as a white solid (780 mg, 88%). mp 195–196° C.; 1H NMR (CDCl3, 400 MHz): δ 9.16 (br s, 1H), 7.88 (d, 1H), 7.18–7.12 (m, 2H), 7.06 (d, 1H), 7.00–6.92 (m, 1H), 6.50 (s, 1H), 3.14–3.00 (m, 4H), 2.85 (t, 2H), 2.72–2.54 (m, 4H), 2.46 (d, 3H), 2.42 (t, 2H), 1.85–1.72 (m, 2H), 1.64–1.52 (m, 2H), 1.48–1.36 (m, 2H); MS ES: m/z=459.08, 461.03.

reactant | 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pent-1-enyl}-4-methyl-1H-[1,8]naphthyridin-2-one | 1.92 mmol, 880 mg | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCC=CC1=CC=C2C(=CC(NC2=N1)=O)C | C24H26Cl2N4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Raney-Nickel | [Ni] | Ni
product | 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pentyl}-4-methyl-1H-[1,8]naphthyridin-2-one | 780 mg, 88% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCCC1=CC=C2C(=CC(NC2=N1)=O)C | C24H28Cl2N4O
